US06180113B2
a) N-Ethyl-(2-benzyloxycarbonylamino-ethyl)-perfluorooctylsulfonic acid amide
5.272 g (10 mmol) of perfluorooctylsulfonic acid-N-ethylamide is dissolved in 30 ml of dimethylformamide. With exclusion of moisture, it is mixed with 330 mg (11 mmol) of sodium hydride (80% in oil). After gas generation is completed, the solution of 2.093 g (10 mmol) of N-benzyloxycarbonyl-aziridine is added dropwise to it. It is poured into 300 ml of ice water, extracted with dichloromethane, the organic solution is washed with water, it is dried on sodium sulfate and evaporated to dryness. The residue is chromatographed on silica gel with dichloromethane/methanol. The title compound is a glass-like solid.

reactant | perfluorooctylsulfonic acid-N-ethylamide | 10 mmol, 5.272 g | C(C)NS(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C10H6F17NO2S
reactant | sodium hydride | 11 mmol, 330 mg | [H-].[Na+]
reactant | N-benzyloxycarbonyl-aziridine | 10 mmol, 2.093 g | C(C1=CC=CC=C1)OC(=O)N1CC1 | C10H11NO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-Ethyl-(2-benzyloxycarbonylamino-ethyl)-perfluorooctylsulfonic acid amide | C(C)N(S(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)CCNC(=O)OCC1=CC=CC=C1 | C20H17F17N2O4S
